US06248770B1
d. 2-(4-cyanophenylaminomethyl)-1-methyl-5-[(2-methylbenzimidazol-1-yl)methyl]-benzimidazole
A mixture of 1.94 g (11.0 mmol) of N-(4-cyanophenyl)-glycine and 1.78 g (11.0 mmol) of carbonyldiimidazole is refluxed in 80 ml of absolute tetrahydrofuran for 15 minutes. After the addition of 2.7 g (10.46 mmol) of 1-(4-methylamino-3-aminobenzyl)-2-methyl-benzimidazole the mixture is refluxed for a further 16 hours. Then the solution is evaporated to dryness, the residue is mixed with 80 ml glacial acetic acid and refluxed for 1 hour. It is then evaporated to dryness once more, the residue thus obtained is mixed with 50 ml of water and made alkaline with conc. ammonia (about pH 10). The product which crystallises out is suction filtered, washed with a little water and dried.

reactant | N-(4-cyanophenyl)-glycine | 11.0 mmol, 1.94 g | C(#N)C1=CC=C(C=C1)NCC(=O)O | C9H8N2O2
reactant | carbonyldiimidazole | 11.0 mmol, 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-(4-methylamino-3-aminobenzyl)-2-methyl-benzimidazole | 10.46 mmol, 2.7 g | CNC1=C(C=C(CN2C(=NC3=C2C=CC=C3)C)C=C1)N | C16H18N4
reactant | ammonia | pH 10 | N | H3N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 2-(4-cyanophenylaminomethyl)-1-methyl-5-[(2-methylbenzimidazol-1-yl)methyl]-benzimidazole | C(#N)C1=CC=C(C=C1)NCC1=NC2=C(N1C)C=CC(=C2)CN2C(=NC1=C2C=CC=C1)C | C25H22N6
